US05036098
(1.1-dimethyl-2-propynyl α-cyclohexyl-α-phenylglycolate)
A Grignard reagent, prepared from 3.38 g magnesium and 2.27 g cyclohexyl bromide in anhydrous THF in the usual way, was added dropwise under a nitrogen gas stream to a solution of 1,1-dimethyl-2-propynyl benzoylformate in anyhdrous THF under ice cooling, and stirring was continued for 18 hours under cooling with water. A solution of 7.5 g ammonium chloride in 30 ml water was then added under ice cooling. The separated organic layer was collected, washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The oily residue was purified by silica gel column chromatography (Wako Gel C-200; 1:15 mixture of ethyl acetate and n-hexane), giving 17.6 g of the objective compound as oil.

reactant | magnesium | 3.38 g | [Mg] | Mg
reactant | cyclohexyl bromide | 2.27 g | C1(CCCCC1)Br | C6H11Br
reactant | 1,1-dimethyl-2-propynyl benzoylformate | C(C1=CC=CC=C1)(=O)C(=O)OC(C#C)(C)C | C13H12O3
reactant | ammonium chloride | 7.5 g | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 1.1-dimethyl-2-propynyl α-cyclohexyl-α-phenylglycolate | 17.6 g | C1(CCCCC1)C(C(=O)OC(C#C)(C)C)(O)C1=CC=CC=C1 | C19H24O3
